US09260397B2
1-(4-ethoxyphenyl)-3-hexyl imidazolium bromide
According to the general synthesis procedure, 10.00 mmol (1,883 g) 1-(4-ethoxyphenyl)imidazole and 11.00 mmol (1,816 g, 1.59 ml) 1-bromoheptane are dissolved in 3 ml diethylether and heated for 12 h to 60° C.

reactant | 1-(4-ethoxyphenyl)imidazole | 10.00 mmol, 1,883 g | C(C)OC1=CC=C(C=C1)N1C=NC=C1 | C11H12N2O
reactant | 1-bromoheptane | 11.00 mmol, 1.59 ml, 1,816 g | BrCCCCCCC | C7H15Br
solvent | diethylether | 3 ml | C(C)OCC | C4H10O
product | 1-(4-ethoxyphenyl)-3-hexyl imidazolium bromide | [Br-].C(C)OC1=CC=C(C=C1)[N+]1=CN(C=C1)CCCCCC | InChI=1S/C17H25N2O.BrH/c1-3-5-6-7-12-18-13-14-19(15-18)16-8-10-17(11-9-16)20-4-2;/h8-11,13-15H,3-7,12H2,1-2H3;1H/q+1;/p-1
